US05478955
(S)-1-(1-Benzenesulfenyl-2-propyl)-1-cyclopentanol 5a
To a mixture of 4a (3.65 g, 11.9 mmol) and triethylamine (2.5 mL) in N,N-dimethylformamide (18 mL) was added thiophenol (1.8 mL) in one portion. The mixture was stirred at ambient temperature overnight. The mixture was poured into water, and extracted with diethyl ether. The combined organic layers were washed with sodium bicarbonate solution and brine, and dried over sodium sulfate. Filtration and concentration gave 3.26 g of an oily material, which was purified by column chromatography (silica gel 40 g, ethyl acetate in n-hexane, 2.5-20%) to give 2.06 g (73.3%) of 5a, as a pale yellow oil. 1H-NMR δ (CDCl3, 500 MHz); 1.24 (3H, d, J=6.3 Hz), 1.53 (1H, br s), 1.56-2.04 (9H), 2.85 (1H, dd, J=12.9 and 10.2 Hz), 3.44 (1H, dd. J=12.9 and 2.8 Hz), 7.28 (1H, t, J=8.0 Hz), 7.39 (2H, t, J=8.0 Hz), 7.46 (2H, d, J=8.0 Hz)

reactant | triethylamine | 2.5 mL | C(C)N(CC)CC | C6H15N
reactant | thiophenol | 1.8 mL | C1(=CC=CC=C1)S | C6H6S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 18 mL | CN(C=O)C | C3H7NO
product | (S)-1-(1-Benzenesulfenyl-2-propyl)-1-cyclopentanol | 3.26 g | C1(=CC=CC=C1)SC[C@@H](C)C1(CCCC1)O | C14H20OS
